Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain, dyspnea
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
___ year old ___ woman with history of asthma, CAD (s/p 
inferior NSTEMI with stent placement in L circumflex and RCA in 
___, HTN, HLD, and PVD who presents with chest pain associated 
with shortness of breath. Last night, she had an episode of 
chest pain that was substernal, non-radiating, described as 
pressure like, associated with sweating and trouble catching her 
breath. She tried using her inhaler without relief of her 
symptoms. She has had progressive shortness of breath, 
particularly at night and in the morning. She uses 2 pillows at 
night but this has not changed recently. She has been compliant 
with her medications. No fevers or chills. She also complained 
of productive cough. EMS was called and she was brought in by 
ambulance where she was placed on CPAP.  
.  
In the ED, initial VS: were T 96.3, P: 79, BP: 132/79, RR: 22, 
100% on CPAP. CPAP was quickly weaned to NC. Exam was notable 
for rales to mid lungs. CXR showed minimal volume overload. Labs 
were significant for proBNP: 2309, Trop-T: 0.01. She had chest 
pain. EKG showed ST depressions in lateral leads. She was given 
aspirin 325 mg PO and started on a nitro drip which resolved the 
chest pain and EKG changes. She was also given albuterol/ 
ipratroprium nebs, methylprednisolone 125 mg iv and azithromycin 
500 mg iv for possible asthma exacerbation. VS prior to transfer 
were 97.6 112/54 76 16 100% 4L NC.  
.  
Currently, patient is complaining of shortness of breath and 
chest tightness (but not chest pain) that is improved from 
prior. She is also complaining of dysuria and bladder fullness.  
 
.  
REVIEW OF SYSTEMS:  
Positive for constipation.  The patient denies night sweats, 
headache, vision changes (chronic low vision), rhinorrhea, 
congestion, sore throat, abdominal pain, nausea, vomiting, 
diarrhea, BRBPR, melena, hematochezia, hematuria.  

 
Past Medical History:
- Asthma  
- CAD, status post inferior NSTEMI with stent placement in L  
circumflex and RCA in ___ myocardial perfusion scan 
(___), Medium size infarct involving the inferolateral wall with 
 
minimal ___ ischemia. Severe inferolateral hypokinesis. 
 
EF: 64%); (Cath ___: Patent PRCA stent, 40% mid vessel stenosis. 
 
Echo ___: Mild regional LV dysfunction with inferior lateral  
hypokinesis, EF 50%, ___ AR, ___  
- Hypertension  
- Peripheral vascular disease  
- Adjustment disorder with depressed mood  
- s/p right eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
- ? CHF (no recent echo)  
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission Physical Exam:  
VS - Temp 97.7F, BP 124/73, HR 83, R 20, O2-sat 100% 4LNC  
General - thin, weak-appearing elderly woman lying in bed with  
nasal canula.  
Eyes - EOMI, sclera anicteric  
ENT - Moist, no lesions/erythema  
Neck - No lymphadenopathy, no JVD.  
CV: Normal s1 and s2. No s3 or s4. no m/r/g appreciated  
PULM - bibasilar crackles, mild expiratory wheezes heard 
throughout  
Abd - Soft, mildly distended. +BS. Mild tenderness to  
palpation throughout abdomen, particularly over suprapubic 
region. Liver edge not palpable. no rebound, or guarding.  
Ext - Warm, 2+ radial and DP pulses bilaterally. No lower  
extremity edema.  
Neuro - CN II-XII grossly intact. Moving all extremities.  
. 
Discharge Physical Exam:  
VS:  97.3  122/48  68  18  98%RA
Gen:  pleasant woman laying comfortably in bed
HEENT:  JVP not elevated   
Card:  Normal S1, S2, no murmurs, rubs or gallops 
Resp:  Moderate air movement; scattered end expiratory wheezing 
bilaterally; no rales 
Abdomen:  Soft, non-tender, non-distended 
R. Cath site: covered in bandage, CDI; no evidence of hematoma; 
no bruits
Extremities:  non-edematous; DP pulses 2+; + clubbing of nails   


 
Pertinent Results:
Admission labs:  
___ 12:45AM BLOOD WBC-6.5 RBC-4.30 Hgb-13.3 Hct-38.7 MCV-90 
MCH-30.9 MCHC-34.3 RDW-12.7 Plt ___
___ 12:45AM BLOOD ___ PTT-32.6 ___
___ 12:45AM BLOOD Glucose-156* UreaN-15 Creat-1.5* Na-140 
K-4.4 Cl-104 HCO3-25 AnGap-15
___ 07:01AM BLOOD CK(CPK)-124
___ 07:01AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.8
. 
Discharge labs:  
___ 06:56AM BLOOD WBC-8.8 RBC-4.02* Hgb-12.2 Hct-36.1 
MCV-90 MCH-30.4 MCHC-33.8 RDW-12.9 Plt ___
___ 06:56AM BLOOD ___ PTT-59.9* ___
___ 06:50AM BLOOD UreaN-25* Creat-1.2* Na-138 K-4.6 Cl-105 
HCO3-24 AnGap-14
___ 06:50AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.1
. 
Cardiac Enzyme trend:  
___ 12:45AM BLOOD cTropnT-0.01
___ 07:01AM BLOOD CK-MB-8 cTropnT-0.19*
___ 01:36PM BLOOD CK-MB-9 cTropnT-0.09*
___ 06:50AM BLOOD CK-MB-6 cTropnT-0.03*
___ 12:45AM BLOOD proBNP-2309*
. 
Transthoracic Echo ___:  
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with focal basal infero-lateral akinesis to 
dyskinesis (EF 50%). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade. 
.
Compared with the prior study (images reviewed) of ___, no 
change.
.
Cardiac Cath ___:  
1. Two vessel coronary artery disease. 
2. Systemic normotension. 
3. In-stent restenosis (60%) involving the circumflex coronary 
artery 
interrogated for significance by FFR, and found hemodynamically 
non-significant.  
 
Brief Hospital Course:
___ female with a history of asthma, CAD (s/p inferior 
NSTEMI with stent placement in L circumflex and RCA in ___, 
HTN, HLD, PVD who presents with acute onset of shortness of 
breath and chest pain; found to have NSTEMI.  
.  
#NSTEMI -  The patient was admitted with substernal chest pain 
and shortness of breath in the absence of EKG changes.  Troponin 
rose from 0.01, peaked at 0.19, and normalized.  Chest pain 
resolved on a heparin drip.  The patient underwent ECHO that 
showed mild regional left ventricular systolic dysfunction with 
focal basal infero-lateral akinesis to dyskinesis (EF 50%).  She 
underwent cardiac catheterization that showed 2 vessel disease 
and in-stent restenosis of left circumflex artery with good FFR 
(0.96).  No intervention was performed.  The patient was 
discharged to home on Aspirin 325 mg daily, Plavix 75 mg daily, 
atorvastatin 80 mg qHS, metoprolol, and imdur.  Given acute 
kidney injury, her home ___ was held throughout admission.  It 
was resumed at discharge with improvement in her renal function. 
 The patient will follow up with her cardiologist upon 
discharge.        
.
#Shortness of breath - The patient was admitted with shortness 
of breath/hypoxia associated with orthopnea and PND in setting 
of NSTEMI, concerning for systolic CHF exacerbation from 
ischemic event.  BNP 2300.  She also has a history of severe 
asthma likely contributing to symptoms.  The patient underwent 
an ECHO that showed mild LV systolic dysfunction (EF 50%).  She 
was diuresed with IV lasix and was maintained on scheduled 
nebulizers.  She was weaned off of oxygen.  Given euvolemia and 
insignificant dysfunction on ECHO, the patient was discharged to 
home without initiation of an outpatient diuretic regimen.  Her 
inhaler prescriptions were renewed.  The patient will follow up 
with her cardiologist upon discharge.         
.  
#Acute Kidney Injury: The patient was admitted with a creatinine 
of 1.5 from baseline of 1.2.  Urine culture was negative.  
Creatinine returned to baseline with diuresis, making the 
etiology likely prerenal azotemia from poor forward flow.  
Losartan was held during admission due to acute kidney injury.  
It was resumed at discharge.  
.  
#Hypertension - The patient remained normotensive throughout 
admission.  On admission, home atenolol was discontinued 
secondary to acute kidney injury.  She was started on metoprolol 
succinate.  Losartan was held during admission for ___.  It was 
resumed at discharge.  
.  
#Hyperlipidemia -  Chronic.  The patient was continued on 
atorvastatin 80 mg po daily.     
.  
# CODE: Full Code, confirmed with patient   
 
Medications on Admission:
ATENOLOL - 50 mg Tablet - 1 Tablet(s) by mouth once a day  
ATORVASTATIN [LIPITOR] - 80 mg Tablet - 1 (One) Tablet(s) by 
mouth once a day  
FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - take 2 
puffs orally twice daily  
IPRATROPIUM-ALBUTEROL [COMBIVENT] - 18 mcg-103 mcg (90 
mcg)/Actuation Aerosol - 2 puffs orally 4 times a day  
ISOSORBIDE MONONITRATE [IMDUR] - 30 mg Tablet Extended Release 
24 hr - 1 Tablet(s) by mouth once a day with supper  
LOSARTAN - 100 mg Tablet - 1 (One) Tablet(s) by mouth once a day 
 
MIRTAZAPINE - 15 mg Tablet, Rapid Dissolve - 1 (One) Tablet(s) 
by mouth once a day  
NITROGLYCERIN - 0.4 mg Tablet, Sublingual - 1 (One) Tablet(s) 
sublingually under the tongue as needed for chest pain may be 
repeated Q 5 minutes x2 call ___  
Medications - OTC  
ACETAMINOPHEN - 500 mg Tablet - 2 (Two) Tablet(s) by mouth every 
eight (8) hours as needed  
ASPIRIN - 81 mg Tablet, Delayed Release (E.C.) - 1 (One) 
Tablet(s) by mouth once a day  
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - 600 mg-400 
unit Tablet - one Tablet by mouth twice daily  
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 1 Capsule(s) by 
mouth twice a day  
MULTIVITAMIN WITH IRON [DAILY VITAMIN W/IRON] - Tablet - 1 (One) 
Tablet(s) by mouth once a day  
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.
Disp:*1 inhaler* Refills:*2*
6. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*2*
7. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. Calcium 600 + D(3) 600 mg(1,500mg) -400 unit Tablet Sig: One 
(1) Tablet PO once a day.  
9. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
10. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain . 
 
11. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
12. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2)  
Inhalation twice a day.  
13. losartan 100 mg Tablet Sig: One (1) Tablet PO once a day.  
14. mirtazapine 15 mg Tablet, Rapid Dissolve Sig: One (1) 
Tablet, Rapid Dissolve PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:  Non-ST elevation myocardial infarction 
Secondary diagnosis:  Asthma, Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital with a small heart attack.  
You were treated with medications to thin your blood.  You 
underwent a procedure to evaluate the blood vessels in your 
heart.  No blood vessels needed to be stented during the 
procedure.  Your chest pain resolved.  You were discharged to 
home.  Please follow up with your primary care physician and 
cardiologist as scheduled.
.
MEDICATIONS CHANGED THIS ADMISSION:  
INCREASE Aspirin to 325 mg daily 
START plavix 75 mg daily 
START metoprolol succinate 100 mg daily 
STOP atenolol   
 
Followup Instructions:
___